US05656412
The 4-bromobenzylsulfonic acid, sodium salt (12.9 g, 43.6 mmol) was combined without further purification with phosphorus pentachloride (10.8 g, 52 mmol) to form an intimate mixture. The mixture was heated to 80° C. under a nitrogen atmosphere and became homogeneous after about 30 minutes. The reaction mixture was maintained at this temperature for about 5 hours. It was then cooled, diluted with diethyl ether and added to a large volume of ice. The ether layer was separated, washed with water and a saturated brine solution and dried over magnesium sulfate. The solvent was then removed with a rotary evaporator to obtain 4-bromobenzylsulfonyl chloride (13.3 g), a small quantity of which was recrystallized from hexane for analysis. The m.p. was about 114° C. to about 116° C. and the 1H NMR spectrum confirmed that the reaction product was 4-bromobenzylsulfonylchloride. The theoretical elemental analysis for bromobenzylsulfonylchloride is: C, 31.19%; H, 2.24%; S, 11.89% and the actual analysis was: C, 31.23%; H, 2.41%; S, 11.73%.

reactant | 4-bromobenzylsulfonic acid | BrC1=CC=C(CS(=O)(=O)O)C=C1 | C7H7BrO3S
reactant | sodium | 43.6 mmol, 12.9 g | [Na] | Na
reactant | phosphorus pentachloride | 52 mmol, 10.8 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-bromobenzylsulfonyl chloride | 13.3 g | BrC1=CC=C(CS(=O)(=O)Cl)C=C1 | C7H6BrClO2S
